US06897231B2
C. [3-(5-(3-[(dimethylamino)methyl](1H-1,2,4-triazol-5-yl))(1H-indazol-3-yl)) phenyl]-N-indan-2-ylcarboxamide
The title compound was prepared according to the procedure of Example 367 C using (3-[5-(ethoxyiminomethyl)(1H-indazol-3-yl)]phenyl)-N-indan-2-ylcarboxamide.2HCl (360 mg, 0.72 mmol), N-amino-2-(dimethylamino) acetamide (254 mg, 2.17 mmol) and sodium methoxide (415 μL of a 25% w/w in methanol) in anhydrous methanol (4.0 mL) with a reaction time of 48 h. Purification of the residue by preparatory TLC using 50% ethyl acetate in methanol gave the desired product which was further purified by precipitation from methanol and ethyl acetate with hexanes and ethyl ether to give the title compound (86 mg, 25% yield) as a colorless powder 1H NMR (DMSO-d6) δ 13.9 (br s, 1H), 13.4 (br s, 1H), 8.85 (d, 1H), 8.6 (br s, 1H), 8.45 (s, 1H), 8.1-8.0 (m, 2H), 7.7-7.6 (m, 2H), 7.3-7.1 (m, 4H), 4.8-4.7 (m, 1H), 3.6 (br s, 2H), 3.25 (dd, 2H), 3.0 (dd, 2H), 2.2 (s, 6H); ES-MS (m/z) 478 [M+H]+.

reactant | (3-[5-(ethoxyiminomethyl)(1H-indazol-3-yl)]phenyl)-N-indan-2-ylcarboxamide | C(C)ON=CC=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)C(=O)NC1CC2=CC=CC=C2C1 | C26H24N4O2
reactant | N-amino-2-(dimethylamino) acetamide | 2.17 mmol, 254 mg | NNC(CN(C)C)=O | C4H11N3O
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | methanol | 4.0 mL | CO | CH4O
product | [3-(5-(3-[(dimethylamino)methyl](1H-1,2,4-triazol-5-yl))(1H-indazol-3-yl)) phenyl]-N-indan-2-ylcarboxamide | CN(C)CC1=NNC(=N1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)C(=O)NC1CC2=CC=CC=C2C1 | C28H27N7O
